US07414061B2
3-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzonitrile
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) was converted, using 3-cyanophenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (49 mg, 30%) which was obtained as a white solid. MS (ESI): m/e=327.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 3-cyanophenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzonitrile | 49 mg, 30% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C=1C=C(C#N)C=CC1 | C20H14N4O
